* 6G4 (Brown Super-style) — DC operating-point netlist
* Circuit Codex — CC-BY-SA 4.0. Independently drawn from the published 6G4
* (A-FJ) drawing's component values (see meta.yaml); no drawing reproduced.
* The drawing labels every preamp/PI bottle 7025 — an alias for the 12AX7
* (reference/tubes/12ax7.yaml also_known_as). The output pair is drawn
* "6L6GC"; the 5881/6L6GC-family CC0 model stands in, exactly as it already
* does for the 5F4 Super's 6L6G pair (reference/tubes/5881.yaml).
*
* DC conventions. BP1 = +456 V (6L6GC plates) is driven at its printed chart
* value; screens hang off BP1 through 470 Ohm-1W stoppers each (OT primary
* DCR omitted, matching every other amp in the corpus).
*
* The three preamp/recovery rails (BD feeding both channels' input stages;
* BE1/BE2 feeding each channel's own recovery stage) are each driven at a
* CALIBRATED value, not the printed plate voltage itself: the drawing's own
* dropping-resistor chain from BP1 into these rails was not legible at this
* scan's resolution, so each rail is set to the value that, through the
* drawing's own 100k plate load and the tube's self-bias, lands the SIMULATED
* PLATE at its printed chart reading (BD=261 V -> P1I/P2I=+170 V; BE1=284 V
* -> P1D=+160 V; BE2=215 V -> P2D=+120 V). This is a calibration, not a
* prediction — the plate nodes it reproduces are exactly the printed values
* by construction, so voltages.yaml gates the cathode nodes it was NOT tuned
* against instead (see there). Channel 2's recovery rail sits well below
* channel 1's (+120 V vs +160 V) exactly as printed; both are modeled
* independently rather than assumed symmetric.
*
* One rail IS derived from a legible resistor: BC, the phase-inverter plate
* supply, through the drawing's own 10k dropper off BP1 (visible above the PI
* in the schematic, feeding down into the +315 V/+310 V plate pair) —
* modelled carrying only the PI's own current. The printed 5%-tolerance
* 82k/100k asymmetric LTP plate loads — the same pair every fixed-bias
* long-tailed-pair amp in this corpus uses (5f4/6g3/ab763) — split BC's
* derived ~429 V into the hot/cold pair, landing within a few percent of the
* printed 315/310 (see voltages.yaml) without being tuned to it.
*
* Fixed-bias supply (a rectified/filtered tap through a 56k/10k divider,
* 8 uF/150 V filter) is replaced by an ideal -55 V source, printed directly
* on the drawing (see meta.yaml sources) — exactly as its AC/ripple-
* filtering role warrants. The Intensity control injects the tremolo
* oscillator's AC into this same -55 V line; it carries no DC (the output
* grids draw no grid current), so it moves no operating point either.
*
* The 56k negative-feedback resistor returns from the speaker terminal
* (~0 V DC through the OT secondary) and parallels the 1500 Ohm Presence
* foot resistor — same recipe as 6G3 (amps/6g3/netlist.cir) — DC-neutral,
* omitted. DC-open coupling/bypass caps are MODELLED where both leads land
* on a named DC node (every cathode-bypass can, the PI-plate -> output-grid
* couplers) so an eventual layout is placement-checked; open at DC they move
* no operating point. Caps into the abstracted tone-stack / volume / mixing-
* resistor / tremolo-oscillator networks stay omitted, same convention as
* every other amp here.
*
* EXCLUDED — the tremolo (bias-vary) oscillator. It is a running phase-shift
* oscillator (Speed on a reverse-audio pot feeding a resistor/cap ladder into
* a 7025 grid) with no static DC operating point printed on the drawing at
* all (unlike 6G3/AB763, whose oscillators at least print a dynamic-average
* pin voltage); documented in notes.md, not modeled. Its plate supply is not
* shared with any gated node in this netlist, so excluding it degrades
* nothing below.
.include models/12ax7.inc
.include models/5881.inc

VBP1 BP1 0 DC 456
VBD  BD  0 DC 261
VBE1 BE1 0 DC 284
VBE2 BE2 0 DC 215
VBIAS NBIAS 0 DC -55

* PI supply: BP1 -> 10k -> BC (drawing's own dropper; carries only the PI's
* own current in this model — see DC-conventions note above).
RD1 BP1 BC 10k

* --- Channel 1 input stage (V1, 7025): 100k plate off BD, 1.5k cathode (25uF
*     bypass), grid direct from the two input jacks' 68k stoppers merged at
*     a 1M leak to ground (no coupling cap — the first stage's grid is the
*     jack-merge node itself).
RL1I BD P1I 100k
XV1 P1I G1I K1I 12AX7
RG1I G1I 0 1meg
RK1I K1I 0 1500
CK1I K1I 0 25u

* --- Channel 1 recovery/2nd stage (V2, 7025): 100k plate off BE1, 820 Ohm
*     cathode (25uF bypass). Grid returns through the tone stack and 1M-A
*     volume pot, which carry no DC path to anything but ground; modeled as
*     a single 1M leak, same abstraction every other amp in the corpus uses
*     for a post-tone-stack grid.
RL1D BE1 P1D 100k
XV2A P1D G1D K1D 12AX7
RG1D G1D 0 1meg
RK1D K1D 0 820
CK1D K1D 0 25u

* --- Channel 2 input stage (V3, 7025): identical topology to channel 1, same
*     shared BD rail (both channels' input plates print the same +170 V).
RL2I BD P2I 100k
XV3 P2I G2I K2I 12AX7
RG2I G2I 0 1meg
RK2I K2I 0 1500
CK2I K2I 0 25u

* --- Channel 2 recovery/2nd stage (V4, 7025): 100k plate off BE2 (channel 2's
*     own, lower-printed rail), 820 Ohm cathode (25uF bypass).
RL2D BE2 P2D 100k
XV4 P2D G2D K2D 12AX7
RG2D G2D 0 1meg
RK2D K2D 0 820
CK2D K2D 0 25u

* --- Phase inverter (V5, 7025 long-tailed pair): 82k (hot) / 100k (cold) 5%
*     plate loads from the derived BC rail; cathodes joined at KPI, 820 Ohm
*     to the tail junction JPI, 6.8k tail to ground; both 1M grid leaks
*     return to JPI. Both channels' recovery-stage outputs mix into the two
*     grids through the drawing's own mixing resistors (DC-blocked by their
*     own .05uF couplers upstream), so the 1M leaks are each grid's only DC
*     path — same abstraction as the tone-stack-fed grids above.
RLPA BC PPIA 82k
XV5A PPIA GPIA KPI 12AX7
RGPA GPIA JPI 1meg
RLPB BC PPIB 100k
XV5B PPIB GPIB KPI 12AX7
RGPB GPIB JPI 1meg
RTAIL KPI JPI 820
RT2 JPI 0 6800

* --- Output pair 6L6GC (fixed bias): grids to -55 V through 220k-5% leaks,
*     screens off BP1 through 470 Ohm-1W stoppers each, cathodes grounded,
*     plates at BP1 (OT primary DCR omitted). Two distinct single-ended
*     bottles V7 / V8 (bom.yaml); the 6L6GC uses the 5881/6L6GC-family model.
RGL1 NBIAS G61 220k
RS1 BP1 BS1 470
XV7 BP1 BS1 G61 0 5881
RGL2 NBIAS G62 220k
RS2 BP1 BS2 470
XV8 BP1 BS2 G62 0 5881

* PI-plate -> 6L6GC-grid coupling caps (0.05uF, DC-open). Modeled so an
* eventual layout's inter-stage routing and push-pull phase are machine-
* checked; each grid still sits at -55 V through its 220k leak, op point
* unmoved.
C1 PPIA G61 0.05u
C2 PPIB G62 0.05u
